US04244957
A suspension of 45.3 g. of 1-benzyloxy-2-[(2,6-dichlorophenyl)imino]-imidazolidine in 450 ml. of 48% strength hydrobromic acid is warmed to 80° for 4 hours. The resulting solution is poured onto ice and extracted with ether. The aqueous phase is evaporated in vacuo. The residue is distilled azeotropically five times with a mixture of ethanol/ethyl acetate. 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine hydrobromide is obtained by crystallization from a mixture of ethanol/ethyl acetate/ether. An analytically pure sample, m.p. 233°-234°, is obtained by recrystallization from methanol/acetonitrile.

reactant | 1-benzyloxy-2-[(2,6-dichlorophenyl)imino]-imidazolidine | C(C1=CC=CC=C1)ON1C(NCC1)=NC1=C(C=CC=C1Cl)Cl | C16H15Cl2N3O
reactant | hydrobromic acid | Br | BrH
product | 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine hydrobromide | Br.ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)O | InChI=1S/C9H9Cl2N3O.BrH/c10-6-2-1-3-7(11)8(6)13-9-12-4-5-14(9)15;/h1-3,15H,4-5H2,(H,12,13);1H
